US08530486B2
5-trifluoromethylquinazolin-2,4(1H,3H)-dione
Prepared according to general method C from 2-amino-6-trifluoromethylbenzoic acid (1.0 g) and urea (2.92 g). Yield: 948 mg (85%) of a solid. 1H-NMR (DMSO-δ6) δ (ppm) 11.43 (br s, 2H), 7.78 (t, J=7.9 Hz, 1H), 7.58 (d, J=7.4 Hz, 1H), 7.48 (d, J=8.2 Hz, 1H).

reactant | 2-amino-6-trifluoromethylbenzoic acid | 1.0 g | NC1=C(C(=O)O)C(=CC=C1)C(F)(F)F | C8H6F3NO2
reactant | urea | 2.92 g | NC(=O)N | CH4N2O
product | 5-trifluoromethylquinazolin-2,4(1H,3H)-dione | FC(C1=C2C(NC(NC2=CC=C1)=O)=O)(F)F | C9H5F3N2O2
